US04341775
Conc. hydrochloric acid (3.2 g.) was added to a solution of 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 3.5 g.) in methanol (50 ml.) and stirred at room temperature for 2 hours. After removing the solvent in vacuo, methanol was added to the residue. The mixture was concentrated in vacuo again. The precipitates were collected by filtration and washed with diethyl ether to give 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-[(2-aminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid trihydrochloride (syn isomer, 2.8 g.).

reactant | hydrochloric acid | 3.2 g | Cl | ClH
reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 3.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCNC(=O)OC(C)(C)C)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C29H39N11O10S3
solvent | methanol | 50 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-[(2-aminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid trihydrochloride | 2.8 g | Cl.Cl.Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN)C(=O)O)C1=O)=NOCCN | InChI=1S/C18H23N11O5S3.3ClH/c19-1-3-28-18(24-26-27-28)37-6-8-5-35-15-11(14(31)29(15)12(8)16(32)33)23-13(30)10(25-34-4-2-20)9-7-36-17(21)22-9;;;/h7,11,15H,1-6,19-20H2,(H2,21,22)(H,23,30)(H,32,33);3*1H/t11?,15-;;;/m1.../s1
